US08975250B2
17.1: 2-Chloro-4-(2-hydroxy-2-methylpropylamino)pyrimidine-5-carboxylic acid
A suspension of 19.9 g (86.73 mmol) of 2,4-dichloro-5-pyrimidinecarboxylic acid in 155 mL of THF is cooled on an ice bath to 2-5°C., and a solution of 8.5 g (95.40 mmol) of 1-amino-2-methyl-2-propanol and 36.3 mL (260.19 mmol) of triethylamine in 60 mL of THF is added dropwise. The mixture is stirred at room temperature overnight. Ethyl acetate and water are added. After separation of the phases by settling, the aqueous phase is acidified with aqueous 1N HCl solution to pH 2. The precipitate is isolated by filtration to give 12.6 g of the expected product in the form of a pale yellow solid, which is used as obtained in the following step. Yield=59%.

reactant | 2,4-dichloro-5-pyrimidinecarboxylic acid | 86.73 mmol, 19.9 g | ClC1=NC=C(C(=N1)Cl)C(=O)O | C5H2Cl2N2O2
reactant | 1-amino-2-methyl-2-propanol | 95.40 mmol, 8.5 g | NCC(C)(O)C | C4H11NO
reactant | triethylamine | 260.19 mmol, 36.3 mL | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 155 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-Chloro-4-(2-hydroxy-2-methylpropylamino)pyrimidine-5-carboxylic acid | 12.6 g, Yield=59% | ClC1=NC=C(C(=N1)NCC(C)(C)O)C(=O)O | C9H12ClN3O3
